US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3,5-difluoro-4-(trimethylsilyl)phenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and (4-bromo-2,6-difluorophenyl)trimethylsilane. Isopropylmagnesiumchloride-lithium chloride-complex (1.3 M in tetrahydrofurane) is used instead of isopropylmagnesium chloride. The bromine-magnesium exchange is performed at room temperature for 18 hours and at 40° C. for 4 hours.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)I | C21H34INO2Si
reactant | (4-bromo-2,6-difluorophenyl)trimethylsilane | BrC1=CC(=C(C(=C1)F)[Si](C)(C)C)F | C9H11BrF2Si
reactant | Isopropylmagnesiumchloride lithium chloride | 1.3 M | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | bromine magnesium | BrBr.[Mg]
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3,5-difluoro-4-(trimethylsilyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=CC(=C(C(=C1)F)[Si](C)(C)C)F)I | C30H46F2INO2Si2
